Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Nitroglycerin
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is an ___ y/o F with hx of "chronic" postprandial pain 
who had 5 episodes of non-bloody (but possibly bilious) emesis 
after awaking this morning. She denies diarrhea. On arrival to 
the ED, she was complaining of abdominal pain (___) and was 
hypertensive with a SBP of 190, this improved on 4 mg morphine 
IV. She also received IV zofran for her nausea. Initial labs 
were notable for a lipase of 395, hyponatremia (Na: 127), Hct of 
35, and otherwise normal LFTs. An EKG was unremarkable. She 
received 3L of NS. An abdominal U/S showed no cholelithiasis or 
CBD dilatation; the pancreas was not well-visualized due to 
bowel gas. An abdominal CT was notable for a small left pleural 
effusion, atrophic pancreas mild ___ fat stranding, 
and calcification concerning for acute pancreatitis. Three round 
structures in the pancreas, poorly characterized, possibly 
cysts, were also noted and MRCP was recommended for further 
evaluation.  She did produce urine in the ED, but this was not 
measured.
 
On arrival to the floor, she was uncooperative with exams and 
repeatedly stated that she had "no pain." Later in the morning, 
she was more cooperative and agreed to speak with the team using 
a translator. She admitted chronic postprandial pain in the 
past, and denied abdominal pain currently. She denied alcohol 
consumption, prior episodes of pancreatitis, prior gallstones.
 
Past Medical History:
PMH: (corroborated with PCP ___
--OA
--NIDDM, diet controlled with one recorded instance of 
microalbuminaria
--asthma with some exacerbations, no intubations
--low back pain with levoscoliosis and spondylosis
--Alzheimer's (pcp unaware of this dx, pt sees psych and the 
records are confidential) 
-cholecystitis
-"colitis" - per patient, unknown type 
-gastritis/GERD
-sciatica

 
Social History:
___
Family History:
Mother had gynecologic cancer. Father had hernia.

 
Physical Exam:
Admission: 
VS: Tmax/Tc: 97.9, HR: 62, BP: 100/60, RR: 16, O2sat: 100% RA
GEN: AOx3, irritated but somewhat cooperative
HEENT: MMM, sclera anicteric
CV: RRR, no M/G/R
PULM: CTAB, No usage of accessory muscles, good aeration, some 
wheezing at the lung bases 
ABD: +BS. Soft, no guarding/rebound/HSM. Tenderness to moderate 
palpation in RUQ and in LLQ.
EXT: Right calf slightly larger than left calf; right calf ttp. 
2+ ___ pulses, no c/c/e. Pain over left lateral malleolus. 
Large bunion on left medial great toe, TTP.

Discharge: 
VS: 97.4, BP: 120/70, P: 58, RR: 20, 98% on RA
GEN: AOx3, cooperative
HEENT: MMM, sclera anicteric
CV: RRR, no M/G/R
PULM: CTAB, No usage of accessory muscles, good aeration, some 
wheezing at the lung bases 
ABD: +BS. Soft, no guarding/rebound/HSM. minimal ttp in LLQ. TTP 
appears distractable in LLQ. 
EXT: Right calf slightly larger than left calf; right calf ttp. 
2+ ___ pulses, no c/c/e. TTP to minimal pressure over left 
lateral malleolus. Large bunion on left medial great toe, TTP
 
Pertinent Results:
Hematology: 
___ 07:55AM BLOOD WBC-6.0 RBC-3.75* Hgb-11.5* Hct-32.4* 
MCV-87 MCH-30.8 MCHC-35.6* RDW-13.3 Plt ___
___ 06:10PM BLOOD WBC-9.1 RBC-4.06* Hgb-12.6 Hct-34.0* 
MCV-84 MCH-31.1 MCHC-37.1* RDW-13.0 Plt ___
___ 06:10PM BLOOD ___ PTT-19.9* ___

Chemistries: 
___ 07:55AM BLOOD Glucose-114* UreaN-7 Creat-0.8 Na-136 
K-4.0 Cl-104 HCO3-25 AnGap-11
___ 04:25PM BLOOD Glucose-150* UreaN-19 Creat-0.8 Na-127* 
K-4.2 Cl-92* HCO3-25 AnGap-14
___ 07:55AM BLOOD Calcium-9.1 Phos-2.4* Mg-1.9
___ 07:08AM BLOOD Calcium-9.3 Phos-3.1 Mg-1.9

LFTS: 
___ 06:05AM BLOOD ALT-18 AST-21 LD(LDH)-224 AlkPhos-72 
TotBili-0.2
___ 06:10PM BLOOD ALT-23 AST-32 LD(LDH)-336* AlkPhos-86 
TotBili-0.2

LIPASE: 
___ 07:55AM BLOOD Lipase-17
___ 07:08AM BLOOD Lipase-29
___ 06:10PM BLOOD Lipase-229*
___ 04:25PM BLOOD Lipase-395*

___: 
___ 06:10PM BLOOD Triglyc-144

CXR PA/Lateral ___: FINDINGS: As compared to the previous 
radiograph, there is no relevant change. Large hiatal hernia. No 
focal parenchymal opacity suggesting pneumonia. No pleural 
effusions. No pulmonary edema. No evidence of pneumonia. 

RUQ US: 
FINDINGS: The liver is normal in echogenicity throughout without 
any focal 
hepatic lesions. There is no intra- or extra-hepatic biliary 
dilation. The 
main portal vein is patent with appropriate direction of flow. 
The 
gallbladder is also normal in appearance with no evidence of 
cholelithiasis.  The common bile duct is normal measuring up to 
3 mm in diameter. The pancreas is not well seen due to overlying 
bowel gas. 
  
A large cyst is noted in the upper pole of the right kidney 
measuring up to 5.8 cm. The left kidney also demonstrates a 
small cyst in the interpolar region. The kidneys are otherwise 
normal in appearance bilaterally. The spleen is unremarkable.  
  
IMPRESSION: Normal appearance of the gallbladder without stones. 
No intra- 
or extra-hepatic biliary dilation.  

___: CT Abdomen: 
1. Mild inflammatory stranding surrounding the pancreatic head 
could indicate acute inflammation. 
2. Largely fatty replaced pancreas with multiple rounded 
densities could 
represent sequelae of prior pancreatitis or multiple IPMN. MRI 
recommended 
for further evaluation. 

___: Bilateral ___ US: 
IMPRESSION: No evidence of deep vein thrombosis.

KUB ___: Prelim read: 
No free air. 
Non-distended loops of small bowel. 
Hiatal hernia as seen on CT. 
Several non-specific air-fluid levels in the cecum/ascending 
colon. 
Air seen in the rectum. 
Non-specific bowel gas pattern. 
Calcified fibroids in the uterus; projecting in the pelvis. 

___: L ankle x-ray: 
IMPRESSION: No evidence of lateral malleolus fracture. 
Persistent cortical 
irregularity along the medial malleolus with faint 
transversely-orientated 
area of sclerosis in the distal tibia which could reflect a 
nondisplaced 
fracture.  
 
Brief Hospital Course:
___ y/o F with hx of chronic postprandial pain presenting with 
likely acute pancreatitis.  
 
#Acute Pancreatitis/RUQ pain: In the setting of chronic 
postprandial RUQ pain, elevated lipase to 395, history of acute 
n/v, and radiologic findings (parapancreatic fat stranding, 
pancretic calcifications), acute pancreatitis was thought to be 
the most likely diagnosis. She received 3L of fluid in the ED, 
and was normotensive/non-tachycardic on the floor, producing 
adequate urine output. Given the history of chronic postprandial 
RUQ pain, gallstone pancreatitis was thought to be the most 
likely underlying etiology, with the stone having "passed" by 
the time of RUQ U/S. However, AP and Tbili were not elevated (86 
and 0.2, respectively), and the complete lack of findings (e.g. 
biliary sludge, mild CBD dilatation) on RUQ is atypical for 
gallstone pancreatitis. Possible other etiologies included 
drug-induced causes (namenda, donepezil, and celecoxib all have 
very rare (<1%) associations with pancreatits). Finally, her CT 
abd/pelvis was consistent with acute on chronic pancreatitis, 
and several cysts were visualized (though it was noted to be a 
suboptimal study for pancreatic visualization). Irritation from 
cystic material may have also been involved in her presentation. 
In any case, her ___ criteria score on admission was ___, 
consistent with mild pancreatitis, with an extremely low 
mortality (<5%). By the morning following admission, her lipase 
had dropped to 29 suggesting resolution of her pancreatitis and 
she was able to tolerate po intake. She will follow-up with GI 
as an outpatient for further evaluation of her pancreatic cysts 
with likely endoscopic ultrasound. 

#LLQ pain: LLQ pain was concerning for diverticulitis vs 
constipation. Notably, she does not complain of pain at rest, 
which is surpising in the context of diverticulitis. Her CT did 
not show any signs of diverticulitis or inflammation in LLQ. 
Further, she did have a leukocytosis and was afebrile, and has 
symptomatically improved on NPO and fluids alone--this is not 
typical of diverticulitis. Given that thse has not had a BM in 3 
days, it is thus likely that this pain is related to 
constipation. Her pain improved after bowel movement. Patient 
takes narcotics as an outpatient and she will be placed on 
laxative regimen. 

#Right leg swelling, calf pain: Given the history of an 
athroscopic R knee procedure in ___, it is possible 
that the R leg swelling compared with left leg swelling is her 
baseline. However, given her history of left ankle sprain (and 
thus possibility of impaired mobility for the past month) and 
her complaint of right calf pain, there was a possibility ___ 
DVT, but ___ US was negative. 

#L ankle pain: Patient complained of point tenderness over the 
left lateral ankle. She had a fall in 2 months ago and an ankle 
film one month ago that did not show any fracture. As she has 
point tenderness, another x-ray was performed. It showed 
sclerosis at the distal tibia but no abnormalities at the site 
of her pain. She was also able to tolerate standing without pain 
and no further imaging was needed. 

#Hyponatremia: She was admitted with Na of 127 and it normalized 
to 136. Her urine sodium was 185 and her UOsm was 547. Her 
calculated serum osmolarity, on the other hand, was 276.2. If 
she were intravascularly depleted, this could be considered 
appropriate. Her sodium status improved after volume repletion.

#HTN: She was continued on atenolol 25 mg po BID (which was from 
the original med list). On discharge, her daughter told us she 
told us she took atenolol 25 mg po daily and diovan 80 mg po 
daily and she was restarted on this regimen at discharge. 
  
#FEN:  She was initially made NPO and given iv fluids and then 
her diet was advanced clears and then low residue diet which she 
tolerated with mild nausea. 
 
#FAX Discharge summary to Dr. ___ ___ and Dr. ___ 
___. (she has been seeing 2 PCPs). 
 
Medications on Admission:
atenlol 25mg po daily 
pantoprazole 40mg daily  
namenda 10mg BID 
donepezil 10mg daily  
celecoxib 200mg daily 
oxycodone prn
Advair daily
Oxybutynin 3.9 mg patch- uses prn when she leaves the house
___
Lorazepam 0.5 mg po daily
Lidocaine patch topical 
Gabapentin 100 mg po tid
 
Discharge Medications:
1. atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.  
2. pantoprazole 40 mg Tablet, Delayed Release (___.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
3. Namenda 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
4. celecoxib 200 mg Capsule Sig: One (1) Capsule PO once a day.  

5. donepezil 10 mg Tablet Sig: One (1) Tablet PO once a day.  
6. oxycodone  Oral
7. senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day as 
needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day: 
please take daily to prevent constipation while you are taking 
oxycodone.
Disp:*60 Capsule(s)* Refills:*2*
9. Miralax 17 gram Powder in Packet Sig: One (1) packet PO once 
a day as needed for constipation.
Disp:*30 packets* Refills:*0*
10. Diovan 80 mg Tablet Sig: One (1) Tablet PO once a day.  
11. Zofran 4 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*
12. gabapentin 100 mg Capsule Sig: One (1) Capsule PO three 
times a day.  
13. oxybutynin 3.9 mg/24 hr Patch Semiweekly Sig: One (1) patch 
Transdermal twice a week.  
14. montelukast 10 mg Tablet Sig: One (1) Tablet PO once a day.  

15. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for anxiety.  
16. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) patch Topical once a day: to affected area, 12 hours on, 
12 hours off.  
17. Advair Diskus  Inhalation

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute Pancreatitis
Constipation

Secondary Diagnosis:
Chronic pancreatitis
Pancreatic cysts
Left ankle pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking part in your care. You were admitted 
with nausea, vomiting and abdominal pain. A CT scan of your 
abdomen showed that you were likely having an acute episode of 
pancreatitis. The CT scan also showed signs of chronic 
pancreatitis. Your symptoms resolved quickly. The cause of your 
pancreatitis is unknown but be have been caused by a gallstone 
obstruction or a cyst compressing your pancreas. You will need 
to have an endoscopic ultrasound as an outpatient to further 
evaluate your pancreas. 

You were constipated, and required medications to move your 
bowels.  You should take medications to move your bowels as an 
outpatient given your pain medications decrease the ability for 
you to have normal bowel movements.

You also had pain in your left ankle. This pain was likely 
related to your sprained ankle, and the xray did not show an 
abnormality of the bone at the site of your pain. You had no 
difficulty walking on this leg, and you should follow up with 
your primary care physician if you have continued ankle pain.

The following changes were made to your medications: 
-ADDED Colace 100 mg by mouth twice a day- this is a stool 
softner, please take to prevent constipation while you are 
taking oxycodone
-ADDED Senna- take 1 tab up to twice a day as needed for 
constipation
-ADDED Miralax- take as needed for constipation
-ADDED Zofran 4 mg by mouth as needed for nausea
 
Followup Instructions:
___